US08877805B2
Step 1. Synthesis of N-allylglycine tert-butyl ester (M-21)
Allylamine (10 mL, 0.13 mol) was cooled to 0° C., and a solution of bromoacetic acid tert-butyl ester (1.0 mL, 6.7 mmol) in dichloromethane (10 mL) was slowly added. After stirring at 0° C. for 3 hours, the reaction mixture was concentrated under reduced pressure. The obtained residue was dissolved in diethyl ether, washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous sodium sulfate. The obtained solution was concentrated under reduced pressure to give the title compound as a yellow liquid (1.15 g, 6.7 mmol, 99%).

reactant | Allylamine | 0.13 mol, 10 mL | C(C=C)N | C3H7N
reactant | bromoacetic acid tert-butyl ester | 6.7 mmol, 1.0 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-allylglycine tert-butyl ester | 6.7 mmol, 1.15 g, 99% | C(C)(C)(C)OC(CNCC=C)=O | C9H17NO2
